US06207678B1
1-Methanesulphonyloxy-2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propane (15.5 g) (see Preparation 16) and imidazole (9 g) were dissolved in anhydrous acetonitrile (100 ml) and the mixture heated at reflux for 90 hours. The solvent was removed under reduced pressure, the residue dissolved in dichloromethane (100 ml) and the solvent again removed under reduced pressure. The residue was dissolved in dichloromethane (300 ml) and washed with sufficient aqueous sodium carbonate solution to ensure that the aqueous phase reached pH14. The two phases were separated and the aqueous phase extracted with dichloromethane (100 ml). The organic phases were then combined and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel, eluting with a solvent gradient of 99:1 changing to 95:5, by volume, dichloromethane:methanol to give 1-(imidazol-1-yl)-2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propane (11.1 g) as an orange oil.

reactant | 1-Methanesulphonyloxy-2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propane | 15.5 g | CS(=O)(=O)OCC(CC1OCCO1)C1=CC(=C(C=C1)Cl)Cl | C13H16Cl2O5S
reactant | imidazole | 9 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(imidazol-1-yl)-2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propane | 11.1 g | N1(C=NC=C1)CC(CC1OCCO1)C1=CC(=C(C=C1)Cl)Cl | C15H16Cl2N2O2
